US04673686
N-(1-cyclopropylmethyl-3-pyrrolidinylmethyl)-2,3-dimethoxy-5-sulphamoyl benzamide
6.6 g of 2,3-dimethoxy-5-sulphamoyl benzoic acid, 50 ml of acetone, 10 ml of water and 3.6 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The solution is cooled to 0°-+5° C. and 3.6 g of isobutyl chloroformate is poured in drop by drop. It is reacted for 30 minutes with the same temperature maintained, after which 4.8 g of 1-cyclopropylmethyl-3-aminomethyl-pyrrolidine is added drop by drop. The reaction medium is agitated for 1 hour at room temperature, whereupon 50 ml of water is added and the acetone evaporated under vacuum. A further 50 ml of water is added and the solution is made alkaline with 5 ml of ammonia (density=0.91). An oil is precipitated. The suspension is extracted 3 times with 50 ml of methylene chloride. The organic phase is dried over magnesium sulphate, filtered, then evaporated under vacuum. The residue is dissolved in boiling ethyl acetate. It crystallises hot. The crystals are cooled, filtered and dried in an oven at 50° C.

reactant | 2,3-dimethoxy-5-sulphamoyl benzoic acid | 6.6 g | COC1=C(C(=O)O)C=C(C=C1OC)S(N)(=O)=O | C9H11NO6S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 3.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclopropylmethyl-3-aminomethyl-pyrrolidine | 4.8 g | C1(CC1)CN1CC(CC1)CN | C9H18N2
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | N-(1-cyclopropylmethyl-3-pyrrolidinylmethyl)-2,3-dimethoxy-5-sulphamoyl benzamide | C1(CC1)CN1CC(CC1)CNC(C1=C(C(=CC(=C1)S(N)(=O)=O)OC)OC)=O | C18H27N3O5S
